US06914074B2
2-Methoxy-6-(4-methoxyphenyl)-1-methylnaphthalene
To a solution of 2-methoxy-6-(4-methoxyphenyl)-1-bromonaphthalene in THF (25 mL) at 0° C. was slowly added n-butyl lithium (2 mL of 2.5N) and TMEDA (0.60 g, 5.13 mmol, freshly distilled from KOH). After thirty minutes at 0° C. iodomethane (7.3 g, 51.3 mmol, passed through basic alumina) was added and the stirring solution was allowed to warm to room temperature overnight. The reaction was poured into water (100 mL) and extracted with ethyl acetate (3×200 mL). The combined organic layers were washed with water, dried over magnesium sulfate, filtered, evaporation of the solvent, and purification by silica column chromatography (5% THF-hexanes) yielded 0.63 g (88%) of a white solid: mp 136-138° C.; 1H NMR (CDCl3): δ 3.87 (3H, s), 3.96 (3H, s), 7.02 (2H, d, J=8.74 Hz), 7.29 (1H, d, J=9.01 Hz), 7.60-7.80 (4H, m), 7.95 (1H, d, J=1.76 Hz), 8.00 (1H, d, J=8.86 Hz); MS (ESI) m/z279 (M+H)+.

reactant | 2-methoxy-6-(4-methoxyphenyl)-1-bromonaphthalene | COC1=C(C2=CC=C(C=C2C=C1)C1=CC=C(C=C1)OC)Br | C18H15BrO2
reactant | n-butyl lithium | 2.5N, 2 mL | C(CCC)[Li]
reactant | TMEDA | CN(C)CCN(C)C | C6H16N2
reactant | iodomethane | 51.3 mmol, 7.3 g | IC | CH3I
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | 2-Methoxy-6-(4-methoxyphenyl)-1-methylnaphthalene | 0.63 g, 88% | COC1=C(C2=CC=C(C=C2C=C1)C1=CC=C(C=C1)OC)C | C19H18O2
